US09084794B2
a) 2-(7-bromoquinolin-3-yl)isoindoline-1,3-dione
A mixture of 2-(2,2-diethoxyethyl)isoindoline-1,3-dione (3.16 g, 12.00 mmol), 2-amino-4-bromobenzaldehyde (2 g, 10.00 mmol) and p-toluenesulfonic acid monohydrate (1.902 g, 10.00 mmol) in toluene (60 mL) was heated under reflux using Dean-Stark apparatus overnight. A very dark/black solid precipitated overnight and was collected, washed with toluene and hexanes, then dissolved in chloroform fortified with DMF. The mixture was washed with aq. NaHCO3 solution (×2), ensuring any precipitate was dissolved in additional chloroform during separation. The organic layer was dried (sodium sulfate) and evaporated onto silica gel. Purification by flash chromatography (0-2% methanol in dichloromethane) afforded the title compound (1.6 g, 45%). 1H NMR (400 MHz, DMSO-d6) δ ppm 9.05 (d, 1 H), 8.57 (d, J=2.3 Hz, 1 H), 8.35 (d, J=1.8 Hz, 1 H), 8.11 (d, J=8.6 Hz, 1 H), 8.09-8.02 (m, 2 H), 8.02-7.93 (m, 2 H), 7.87 (dd, J=1.9, 8.7 Hz, 1 H).

reactant | 2-(2,2-diethoxyethyl)isoindoline-1,3-dione | 12.00 mmol, 3.16 g | C(C)OC(CN1C(C2=CC=CC=C2C1=O)=O)OCC | C14H17NO4
reactant | 2-amino-4-bromobenzaldehyde | 10.00 mmol, 2 g | NC1=C(C=O)C=CC(=C1)Br | C7H6BrNO
reactant | p-toluenesulfonic acid monohydrate | 10.00 mmol, 1.902 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(7-bromoquinolin-3-yl)isoindoline-1,3-dione | 1.6 g, 45% | BrC1=CC=C2C=C(C=NC2=C1)N1C(C2=CC=CC=C2C1=O)=O | C17H9BrN2O2
